US04069250
Sodium 5-Acetamido-2,4,6-triiodo-N-[tris(acetoxymethyl)methyl]isophthalamate
A stirred slurry of 5-acetamido-2,4,6-triiodo-N-[tris(acetoxymethyl)methyl]isophthalamic acid (4.15 g., 5 mol.) in water (20 ml.) was carefully neutralized by dropwise addition of 1 N sodium hydroxide solution (5.00 ml.) so that the pH of the solution never exceeded 7.00. The resulting clear solution (pH 6.98) was concentrated under reduced pressure at room temperature (25°, 20 mm. to 0.1 mm.) and dried overnight in vacuo (0.1 mm.) to yield the salt indicated in the caption as a white powder (4.2 g.). The solubility of this powder in water is greater than or equal to 100% (wt/vol).

reactant | 5-acetamido-2,4,6-triiodo-N-[tris(acetoxymethyl)methyl]isophthalamic acid | 5 mol, 4.15 g | C(C)(=O)NC=1C(=C(C(=C(C(=O)O)C1I)I)C(=O)NC(COC(C)=O)(COC(C)=O)COC(C)=O)I | C20H21I3N2O10
reactant | sodium hydroxide | 1 N, 5.00 ml | [OH-].[Na+]
solvent | water | 20 ml | O | H2O
product | Sodium 5-Acetamido-2,4,6-triiodo-N-[tris(acetoxymethyl)methyl]isophthalamate | C(C)(=O)NC=1C(=C(C(=C(C(=O)[O-])C1I)I)C(=O)NC(COC(C)=O)(COC(C)=O)COC(C)=O)I.[Na+] | InChI=1S/C20H21I3N2O10.Na/c1-8(26)24-17-15(22)12(14(21)13(16(17)23)19(31)32)18(30)25-20(5-33-9(2)27,6-34-10(3)28)7-35-11(4)29;/h5-7H2,1-4H3,(H,24,26)(H,25,30)(H,31,32);/q;+1/p-1
